US06683201B2
A solution of 44 g (216 mmol) 4-Methylamino-phenol.hydrobromide (1:1) in 1.11 THF, 270 ml acetonitril and 17.4 ml (216 mmol) pyridine was treated with 49.5 g (227 mmol) of di-tert-butyl dicarbonate and heated for 2 h at 70° C. The reaction was continued at RT for 16 h after the addition of 8.7 ml (108 mmol) pyridine and 24.8 g (113 mmol) of di-tert-butyl dicarbonate. The solution was evaporated to a third and extracted with aqueous 10% KHSO4 /Et2O (3×). The organic phase was washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated to yield 47.8 g (99%) of (4-Hydroxy-phenyl)-methyl-carbamic acid tert-butyl ester, MS: 223 (M).

reactant | 4-Methylamino-phenol.hydrobromide | 216 mmol, 44 g | Br.CNC1=CC=C(C=C1)O
reactant | THF | C1CCOC1 | C4H8O
reactant | pyridine | 216 mmol, 17.4 ml | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | 227 mmol, 49.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 108 mmol, 8.7 ml | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | 113 mmol, 24.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitril | 270 ml | C(C)#N | C2H3N
product | (4-Hydroxy-phenyl)-methyl-carbamic acid tert-butyl ester | 47.8 g, 99% | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)O)=O | C12H17NO3
